US08133882B2
213 μl of diisopropyl azodicarboxylate was added to a 5.0 ml dichloromethane solution of 263 mg of benzyl (2R)-2-hydroxy-3-phenylpropanoate and 270 mg of triphenylphosphine at 0° C., followed by stirring for 15 minutes. Then, 177 mg of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-(hydroxymethyl)quinolin-4(1H)-one was added thereto, followed by stirring at room temperature for 4 hours. Water was added to the reaction mixture, followed by extraction with EtOAc and washing with aqueous saturated sodium chloride. After drying over anhydrous sodium sulfate and subsequent evaporation under a reduced pressure, the residue was purified by silica gel column chromatography to obtain 160 mg of benzyl (2S)-2-{[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]oxy}-3-phenylpropanoate.

reactant | diisopropyl azodicarboxylate | 213 μl | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | benzyl (2R)-2-hydroxy-3-phenylpropanoate | 263 mg | O[C@@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C16H16O3
reactant | triphenylphosphine | 270 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-(hydroxymethyl)quinolin-4(1H)-one | 177 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)CO)=O)F | C21H27FN2O2
solvent | Water | O | H2O
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
product | benzyl (2S)-2-{[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]oxy}-3-phenylpropanoate | 160 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)O[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O)F | C36H39FN2O4
